US04182757
3.1 g of 1-(2-chloroethyl)-3-n-butyl-3-D-ribofuranosylurea are dissolved in 10 ml of formic acid, and 1.5 g of sodium nitrite are added gradually thereto at 0° to 5° C. for one hour under stirring. The mixture is further stirred at the same temperature for one hour. After the reaction, the mixture is treated in the same manner as described in Example 5-(2). 1.4 g of 1-(2-chloroethyl)-1-nitroso-3-n-butyl-3-D-ribofuranosylurea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-n-butyl-3-D-ribofuranosylurea | 3.1 g | ClCCNC(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)CCCC | C12H23ClN2O5
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 1-(2-chloroethyl)-1-nitroso-3-n-butyl-3-D-ribofuranosylurea | 1.4 g | ClCCN(C(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)CCCC)N=O | C12H22ClN3O6
